US06544981B2
2-Cyano-3-[[(3S)-hexahydro-2-oxo-1-(2-oxo-1-phenylethyl)-1H-azepin-3-yl]amino]-3-[(2-methyl-5-benzofuranyl)amino]propenoic Acid Methyl Ester
A solution of 2-methyl-5-benzofuranamine·HCl (35 mg, 0.24 mmol), ethyl 2-cyano-3,3-bis(methylthio)-2-propenoate (47 mg, 0.23 mmol), and ethanol (0.4 mL) was heated at 70° C. for 12 h. To the mixture was added 3-aminohexahydro-1-(2-oxo-2-phenylethyl)-2H-azepin-2-one (56 mg, 0.23 mmol). The resulting mixture was heated at 80° C. for 2 days, and then concentrated in vacuo. The residue was purified by preparative HPLC (column-YMC-PACK ODSA S5, 30×250 mm); flow rate 25 mL/min; gradient time 55 min) to give the title compound as a pale yellow solid (8 mg, 7%): MS (ESI, pos. ion spectrum) m/z 501; HPLC (method A) tR 4.26 min.

reactant | 2-methyl-5-benzofuranamine·HCl | 0.24 mmol, 35 mg | CC=1OC2=C(C1)C=C(C=C2)N.Cl
reactant | ethyl 2-cyano-3,3-bis(methylthio)-2-propenoate | 0.23 mmol, 47 mg | C(#N)C(C(=O)OCC)=C(SC)SC | C8H11NO2S2
reactant | 3-aminohexahydro-1-(2-oxo-2-phenylethyl)-2H-azepin-2-one | 0.23 mmol, 56 mg | NC1C(N(CCCC1)CC(C1=CC=CC=C1)=O)=O | C14H18N2O2
reactant | ethanol | 0.4 mL | C(C)O | C2H6O
product | 2-Cyano-3-[[(3S)-hexahydro-2-oxo-1-(2-oxo-1-phenylethyl)-1H-azepin-3-yl]amino]-3-[(2-methyl-5-benzofuranyl)amino]propenoic Acid Methyl Ester | 8 mg, 7% | COC(C(=C(NC=1C=CC2=C(C=C(O2)C)C1)N[C@@H]1C(N(CCCC1)C(C=O)C1=CC=CC=C1)=O)C#N)=O | C28H28N4O5
